US06967201B1
1-(5-chlorobenzofur-7-yl)-2(S)-methylpiperazine Hydrochloride
Beginning with 5-chloro-7-bromobenzofuran and 1-benzyl-3(S)-methylpiperazine, the title compound was prepared as described.

reactant | 5-chloro-7-bromobenzofuran | ClC=1C=C(C2=C(C=CO2)C1)Br | C8H4BrClO
reactant | 1-benzyl-3(S)-methylpiperazine | C(C1=CC=CC=C1)N1C[C@@H](NCC1)C | C12H18N2
product | 1-(5-chlorobenzofur-7-yl)-2(S)-methylpiperazine Hydrochloride | Cl.ClC=1C=C(C2=C(C=CO2)C1)N1[C@H](CNCC1)C | InChI=1S/C13H15ClN2O.ClH/c1-9-8-15-3-4-16(9)12-7-11(14)6-10-2-5-17-13(10)12;/h2,5-7,9,15H,3-4,8H2,1H3;1H/t9-;/m0./s1
